US09376443B2
3-(6-Ethoxyethoxymethylpyridin-2-ylmethyl)-7-(5-methyl-2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine
A solution of 2-ethoxyethanol (242 μl, 2.5 mmol) in anhydrous THF (15 mL) was cooled to 0° C. and treated with NaH (100 mg, 2.5 mmol). The reaction was stirred at 0° C. for 10 mins, then treated with 3-(6-bromomethylpyridin-2-ylmethyl)-7-(5-methyl-2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine (100 mg, 0.25 mmol), stirred at room temperature for 30 mins. The reaction was quenched with aqueous NH4Cl and extracted with EtOAc. The combined organic phases were dried (MgSO4) and concentrated in vacuo. The resulting solid was suspended in MeOH (10 mL) and treated with 4M HCl in dioxane (2 mL), the reaction mixture was then diluted with diethyl ether (40 mL) and the resulting solid isolated by filtration to give the product (34 mg, 31%) as a yellow solid.

reactant | 2-ethoxyethanol | 2.5 mmol, 242 μl | C(C)OCCO | C4H10O2
reactant | NaH | 2.5 mmol, 100 mg | [H-].[Na+]
reactant | 3-(6-bromomethylpyridin-2-ylmethyl)-7-(5-methyl-2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | 0.25 mmol, 100 mg | BrCC1=CC=CC(=N1)CN1N=NC2=C1N=C(N=C2C=2OC(=CC2)C)N | C16H14BrN7O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-(6-Ethoxyethoxymethylpyridin-2-ylmethyl)-7-(5-methyl-2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | 34 mg, 31% | C(C)OCCOCC1=CC=CC(=N1)CN1N=NC2=C1N=C(N=C2C=2OC(=CC2)C)N | C20H23N7O3
